US09260408B2
[A] 6-Bromo-7-fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one
In analogy to the procedure described for the preparation of intermediates A-1 [A], 6-bromo-7-fluoro-3,4-dihydro-1H-quinolin-2-one was reacted with methyl iodide in presence of potassium tert-butoxide to give the title compound as a white foam. MS: 258.0, 259.9 (M+H+).

reactant | 6-bromo-7-fluoro-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2CCC(NC2=CC1F)=O | C9H7BrFNO
reactant | methyl iodide | CI | CH3I
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
product | 6-Bromo-7-fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2CCC(N(C2=CC1F)C)=O | C10H9BrFNO
